US04698352
In 5 ml of benzene was dissolved 0.3 g of methyl 5-cyclooctyl-3-oxo-4-pentenoate, and 0.3 g of N,N-dimethylformamidodimethylacetal was added thereto. They were reacted at 70° C. for one hour. Then, the reaction mixture was cooled to room temperature, and 0.27 g of 4-hydroxy-2-methylaniline was added thereto. The resulting mixture was subjected to reaction at room temperature for 2 hours. After completion of this reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: toluene/ethyl acetate (50:1 by volume) mixture). The fraction containing the objective substance was concentrated, and the oily substance thus obtained was dissolved in 5 ml of N,N-dimethylformamide and the resulting mixture was refluxed for 4 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (50:1 by volume) mixture). The fraction containing the objective substance was concentrated and the oily substance thus obtained was dissolved in 5 ml of dioxane, and 0.2 g of 2,3,5,6-tetrachloro-p-benzoquinone was added thereto, and they were reacted at 80°-90° C. for 30 minutes. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration. These crystals were dissolved in 20 ml of chloroform, and after removing the insolubles, the chloroform was removed by distillation under reduced pressure. To the residue was added 5 ml of a 1N aqueous sodium hydroxide solution and 5 ml of methanol, and they were reacted at room temperature for 30 minutes. After the methanol was removed by distillation under reduced pressure, the resulting solution was adjusted to a pH of 6.5 with 2N hydrochloric acid, and the precipitated crystals were collected by filtration, washed with water, and dried to obtain 0.14 g of 6-cyclooctyl-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 118°-120° C.

reactant | methyl 5-cyclooctyl-3-oxo-4-pentenoate | 0.3 g | C1(CCCCCCC1)C=CC(CC(=O)OC)=O | C14H22O3
reactant | 4-hydroxy-2-methylaniline | 0.27 g | OC1=CC(=C(N)C=C1)C | C7H9NO
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 0.2 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 6-cyclooctyl-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid | 0.14 g | C1(CCCCCCC1)C=1N(C=C(C(=O)O)C(C1)=O)C1=C(C=C(C=C1)O)C | C21H25NO4
